### PR TITLE
[Merged by Bors] - chore: avoid `dsimp; infer_instance`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR cleans up a bunch of instances using `inferInstanceAs` and `deriving`.

It seems that when in a `noncomputable section`, derived instances will always be `noncomputable`, while manual instances can still end up being computable. So this PR also adds some now transitively required `noncomputable` annotations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Shift/Adjunction.lean [hunk 1]
```diff
@@ -532,25 +532,22 @@ lemma mk' (h : NatTrans.CommShift E.unitIso.hom A) :
...
 set_option backward.isDefEq.respectTransparency false in
 /--
 The identity equivalence is compatible with shifts.
 -/
-instance : (Equivalence.refl (C := C)).CommShift A := by
-  dsimp [Equivalence.CommShift, refl_toAdjunction]
-  infer_instance
-
+instance : (Equivalence.refl (C := C)).CommShift A :=
+  inferInstanceAs <| Adjunction.id.CommShift A
```
Comment (sgouezel) [inline Mathlib/CategoryTheory/Shift/Adjunction.lean:550]:
```suggestion
  inferInstanceAs <| Adjunction.id.CommShift A

```

File: Mathlib/CategoryTheory/Shift/Pullback.lean [hunk 2]
```diff
@@ -58,20 +55,12 @@ the monoidal functor `Discrete.addMonoidalFunctor φ : Discrete A ⥤ Discrete B
...
-instance [HasZeroObject C] : HasZeroObject (PullbackShift C φ) := by
-  dsimp [PullbackShift]
-  infer_instance
+instance [HasZeroObject C] : HasZeroObject (PullbackShift C φ) := ‹_›
 
-set_option backward.isDefEq.respectTransparency false in
-instance [Preadditive C] : Preadditive (PullbackShift C φ) := by
-  dsimp [PullbackShift]
-  infer_instance
+instance [Preadditive C] : Preadditive (PullbackShift C φ) := ‹_›
```
Comment (sgouezel) [inline Mathlib/CategoryTheory/Shift/Pullback.lean]: It's one of those cases where `inferInstanceAs` would only hide things in a function with the correct type, but isn't it better than nothing still? (Note that this one is not Prop-valued, contrary to the one a few lines above, so here it really matters)

**Review by sgouezel — COMMENTED** [review]
bors d+

File: Mathlib/CategoryTheory/Shift/Pullback.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/CategoryTheory/Shift/Pullback.lean]: Ah, you're right. I'll use `inferInstanceAs` instead (and also in the other two for consistent style)
